US20010047031A1
To a mixture containing NaH (9.8 mg, 0.2 mmol) and trimethylsulfoxoniumiodide (57.8 mg, 0.26 mmol) was added slowly DMSO (0.44 ml). After 30 minutes stirring at room temperature, a solution of indan-2-carbaldehyde (32 mg, 0.22 mmol) in DMSO (0.1 ml) was added. The reaction mixture was stirred 18 hours at room temperature and then quenched with H2O. The aqueous phase was extracted with ethylacetate, combined organic phases were dried over Na2SO4, filtered and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 98:2) to provide (RS)-2-indan-2-yl-oxirane (9 mg, 26%) as a colorless oil, MS: m/e=160.0 (M+).

reactant | NaH | 0.2 mmol, 9.8 mg | [H-].[Na+]
reactant | trimethylsulfoxoniumiodide | 0.26 mmol, 57.8 mg | [I-].C[S+](=O)(C)C
reactant | indan-2-carbaldehyde | 0.22 mmol, 32 mg | C1C(CC2=CC=CC=C12)C=O | C10H10O
solvent | DMSO | 0.1 ml | CS(=O)C | C2H6OS
solvent | DMSO | 0.44 ml | CS(=O)C | C2H6OS
product | (RS)-2-indan-2-yl-oxirane | 9 mg, 26% | C1C(CC2=CC=CC=C12)C1OC1 | C11H12O
